US07060697B2
To a mixture of (2-ethyl-biphenyl-4-yl)-methanol (780 mg, 3.67 mmol) and PPh3 (1.44 g, 5.5 mmol) in DCM (15 mL) at 0° C. is added CBr4 (1.82 g, 5.5 mmol) in DCM (2 mL). The reaction is stirred at 0° C. for 1 h followed by concentration. The residue obtained is purified by silica gel chromatography (5% EtOAc in hexanes) to give 4-bromomethyl-2-ethyl-biphenyl as a colorless oil.

reactant | (2-ethyl-biphenyl-4-yl)-methanol | 3.67 mmol, 780 mg | C(C)C1=C(C=CC(=C1)CO)C1=CC=CC=C1 | C15H16O
reactant | PPh3 | 5.5 mmol, 1.44 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 5.5 mmol, 1.82 g | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-2-ethyl-biphenyl | BrCC1=CC(=C(C=C1)C1=CC=CC=C1)CC | C15H15Br
